US06573274B1
Lithium aluminum hydride (1.78 g) was suspended in dry tetrahydrofuran (10 ml), and 2,6-dichloronicotinic acid was added under ice-cooling at an inside temperature of not more than 10° C. The mixture was stirred under ice-cooling for 1 hr and 28% aqueous amonia was added dropwise to the reaction mixture until foams disappeared. Methanol was added and the mixture was stirred at room temperature for 3 hr, and filtered through celite. The mother liquor was concentrated and the residue was applied to flash silica gel column chromatography (silica gel, 200 ml) and eluted with chloroform:ethyl acetate=8:1 to give 2,6-dichloro-3-hydroxymethylpyridine as colorless crystals (2.89 g).

reactant | Lithium aluminum hydride | 1.78 g | [H-].[Al+3].[Li+].[H-].[H-].[H-]
reactant | 2,6-dichloronicotinic acid | ClC1=C(C(=O)O)C=CC(=N1)Cl | C6H3Cl2NO2
reactant | Methanol | CO | CH4O
solvent | tetrahydrofuran | 10 ml | O1CCCC1 | C4H8O
product | 2,6-dichloro-3-hydroxymethylpyridine | 2.89 g | ClC1=NC(=CC=C1CO)Cl | C6H5Cl2NO
